US03953293
When xylostasin is subjected to methanolysis with 0.4N HCl in methanol at 22°C for 6 days, methyl D-xyloside and neamine are produced and, when xylostasin is hydrolyzed with 0.5N sulfuric acid at 90°C for 6 hours, D-xylose and neamine are detected in the hydrolyzate.

reactant | xylostasin | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)N)O[C@H]3[C@@H]([C@H]([C@H](O3)CO)O)O)O)N | C17H34N4O10
reactant | HCl | 0.4N | Cl | ClH
solvent | methanol | CO | CH4O
product | neamine | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)N)O)O)N | C12H26N4O6
